US07452878B2
1.7 ml (1.70 mmol) of an aqueous 1M lithium hydroxide solution are added to a solution containing 620 mg (1.13 mmol) of methyl (S)-3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-(1-methyl-3-oxo-3-phenyl-propenylamino)propionate in 10 ml of a methanol/THF mixture (3/1). After stirring for 16 h, the medium is acidified with 1N hydrochloric acid until pH=4, extracted with ethyl acetate, dried over magnesium sulfate, and concentrated. The residue is purified by chromatography on a column of silica and eluted with a heptane/ethyl acetate mixture. 100 mg of (S)-3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-(1-methyl-3-oxo-3-phenylpropenylamino)propionic acid are isolated with a 17% yield.

reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | methyl (S)-3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-(1-methyl-3-oxo-3-phenyl-propenylamino)propionate | 1.13 mmol, 620 mg | C(C1=CC=CC=C1)(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(=CC(C1=CC=CC=C1)=O)C | C35H34N2O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol THF | 10 ml | CO.C1CCOC1
product | (S)-3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-(1-methyl-3-oxo-3-phenylpropenylamino)propionic acid | 100 mg, 17% yield | C(C1=CC=CC=C1)(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=CC(C1=CC=CC=C1)=O)C | C34H32N2O4
